US08202868B2
N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-4-fluoro-N-methyl-benzamide hydrochloride
0.5 g of 4-fluorobenzoic acid (3.57 mmol) and 1.27 g of triethylamine (12.57 mmol) were dissolved in 40 ml of dimethylformamide. 0.5 g of hydroxybenzotriazole (HOBt, 3.7 mmol), 1.3 g of {4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-methyl-amine hydrochloride (2.77 mmol), and 0.75 g of N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride (EDCl, 3.91 mmol) were added at room temperature, and the reaction mixture was stirred for 16 h. The reaction mixture was partitioned between water and ethyl acetate, the organic phase dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using dichloromethane-methanol (2%). The residue was re-dissolved in isopropanol, treated with 4 N hydrochloric acid in dioxan. The precipitate was collected by filtration and dried to yield 0.6 g of the title compound as a white solid.

reactant | 4-fluorobenzoic acid | 3.57 mmol, 0.5 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | triethylamine | 12.57 mmol, 1.27 g | C(C)N(CC)CC | C6H15N
reactant | hydroxybenzotriazole | 3.7 mmol, 0.5 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | {4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-methyl-amine hydrochloride | 2.77 mmol, 1.3 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCNC)C1CCC1
reactant | N-ethyl-N′-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 3.91 mmol, 0.75 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-4-fluoro-N-methyl-benzamide hydrochloride | 0.6 g | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN(C(C1=CC=C(C=C1)F)=O)C)C1CCC1 | InChI=1S/C28H40FN5O.ClH/c1-28(2,3)27-30-24(21-8-7-9-21)20-25(31-27)34-18-16-33(17-19-34)15-6-5-14-32(4)26(35)22-10-12-23(29)13-11-22;/h10-13,20-21H,5-9,14-19H2,1-4H3;1H
